### PR TITLE
[Merged by Bors] - feat(FieldTheory/IsSepClosed): add some results on separable closure and perfect field

### PR DESCRIPTION
**Pull request by acmepjz**
- `IsSepClosure.isAlgClosure_of_perfectField`, `IsSepClosure.of_isAlgClosure_of_perfectField`: if `k` is a perfect field, then its separable closure coincides with its algebraic closure.
- `IsSepClosed.isAlgClosed_of_perfectField`: a separably closed perfect field is also algebraically closed.
- `Algebra.IsAlgebraic.[isSeparable_of_]perfectField`: if `L / K` is an algebraic extension, `K` is a perfect field, then `L / K` is separable and `L` is perfect.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Dicussions: https://github.com/leanprover-community/mathlib4/pull/9488#discussion_r1443779334

### CODE REVIEW

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 1]
```diff
@@ -94,6 +94,13 @@ theorem exists_root [IsSepClosed k] (p : k[X]) (hp : p.degree ≠ 0) (hsep : p.S
     ∃ x, IsRoot p x :=
   exists_root_of_splits _ (IsSepClosed.splits_of_separable p hsep) hp
 
+variable (k) in
+/-- A separably closed perfect field is also algebraically closed. -/
+instance isAlgClosed_of_perfectField [IsSepClosed k] [PerfectField k] :
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsSepClosed.lean:99]:
```suggestion
instance (priority := 100) isAlgClosed_of_perfectField [IsSepClosed k] [PerfectField k] :
```
Or else lean finds this first whenever it looks for `IsAlgClosed k`

Comment (erdOne) [reply Mathlib/FieldTheory/IsSepClosed.lean:99]: same for the new instances below

File: Mathlib/FieldTheory/Perfect.lean [hunk 2]
```diff
@@ -218,3 +218,17 @@ instance toPerfectRing (p : ℕ) [hp : Fact p.Prime] [CharP K p] : PerfectRing K
...
+  ⟨fun x ↦ PerfectField.separable_of_irreducible <| minpoly.irreducible (halg x).isIntegral⟩
+
+/-- If `L / K` is an algebraic extension, `K` is a perfect field, then so is `L`. -/
+theorem Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L] [Algebra K L]
+    [PerfectField K] (halg : Algebra.IsAlgebraic K L) : PerfectField L := ⟨fun {f} hf ↦
+  haveI := Fact.mk hf
+  have h := hf.ne_zero
+  have h2 := isIntegral_trans halg.isIntegral _ (AdjoinRoot.isIntegral_root h)
+  have h3 := (AdjoinRoot.minpoly_root h) ▸ minpoly.dvd_map_of_isScalarTower K L (AdjoinRoot.root f)
+  (PerfectField.separable_of_irreducible (minpoly.irreducible h2)).map |>.of_dvd h3 |>.of_mul_left⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Perfect.lean:234]: Can you extract the lemma that says if L/K is integral with L a field and K a CommRing, then any irreducible polynomial in L[X] divides some monic irreducible polynomial in K[X]?

I think we can also prove it for an integrally closed domain L if we assume `Monic` because we have [minpoly.isIntegrallyClosed_dvd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.html#minpoly.isIntegrallyClosed_dvd) and [IsIntegrallyClosed.minpoly.unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.html#IsIntegrallyClosed.minpoly.unique). For L/K free maybe we can use Algebra.norm, but I'm not sure whether every element divides its norm in a general algebra; even though we can factor into irreducibles in a Noetherian domain, we probably need to start with a prime (not just irreducible) polynomial in L[X] in order for it to divide some factor ... there could be a version that assumes IsAlgebraic instead of IsIntegral too. But not for this PR ...

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 3]
```diff
@@ -191,6 +198,27 @@ class IsSepClosure [Algebra k K] : Prop where
...
+    [Algebra k K] [IsSepClosure k K] [PerfectField k] : IsAlgClosure k K :=
+  have halg : Algebra.IsAlgebraic k K := IsSepClosure.separable.isAlgebraic
+  haveI := halg.perfectField; inferInstance
+
+/-- If `k` is perfect, `K` is an algebraic closure of `k`,
+then it is also a separable closure of `k`. -/
+instance (priority := 100) IsSepClosure.of_isAlgClosure_of_perfectField
+    [Algebra k K] [IsAlgClosure k K] [PerfectField k] : IsSepClosure k K :=
+  ⟨haveI := IsAlgClosure.alg_closed (R := k) (K := K); inferInstance,
+    (IsAlgClosure.algebraic (R := k) (K := K)).isSeparable_of_perfectField⟩
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean:220]: > This two instances certainly form a loop.

Yes. Will it break the instance search? Since `IsSepClosure` is a `Prop`, any two of them are the same, I assume that Lean uses BFS or DFS on graph. Will the existence of loops affect it?

I'm OK if write them as `theorem` instead of `instance`.

File: Mathlib/FieldTheory/Perfect.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean:234]: Sure, let me check later.

File: Mathlib/FieldTheory/IsSepClosed.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/IsSepClosed.lean:220]: Lean 3 can't have instance loops; Lean 4 allows them but they can lead to performance issues. Since this file isn't imported much may be it won't manifest from benchmarking results, but let me bench it and ask what @erdOne thinks about it...

!bench

**Comment by alreadydone** [comment]
!bench

File: Mathlib/FieldTheory/Perfect.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean:234]: > Can you extract the lemma that says if L/K is integral with L a field and K a CommRing, then any irreducible polynomial in L[X] divides some monic irreducible polynomial in K[X]?

Need `IsDomain K`. Can it be deduced from existing conditions?

Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean]: I see. There's no obvious way to remove IsDomain as far as I can see. If K is not a domain, it's possible that the minpoly has higher degree factors that become units in L[X].
Let's move this lemma to the file where AdjoinRoot is defined and call it a day!

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 4]
```diff
@@ -923,3 +923,14 @@ theorem quotientEquivQuotientMinpolyMap_symm_apply_mk (pb : PowerBasis R S) (I :
 #align power_basis.quotient_equiv_quotient_minpoly_map_symm_apply_mk PowerBasis.quotientEquivQuotientMinpolyMap_symm_apply_mk
 
 end PowerBasis
+
+/-- If `L / K` is an integral extension, `K` is a domain, `L` is a field, then any irreducible
+polynomial over `L` divides some monic irreducible polynomial over `K`. -/
+theorem Irreducible.exists_dvd_monic_irreducible_of_isIntegral {K L : Type*}
+    [CommRing K] [IsDomain K] [Field L] [Algebra K L] (H : Algebra.IsIntegral K L) {f : L[X]}
```
Comment (erdOne) [inline Mathlib/RingTheory/AdjoinRoot.lean:930]: Doesn't this imply that $\text{Frac} K$ is integral over $K$, i.e. $K$ is actually a field?

Comment (alreadydone) [reply Mathlib/RingTheory/AdjoinRoot.lean:930]: K to L isn't necessarily injective. That said, I think this is still true if IsIntegral is replaced by IsAlgebraic ...

File: Mathlib/FieldTheory/Perfect.lean [hunk 5]
```diff
@@ -218,3 +218,14 @@ instance toPerfectRing (p : ℕ) [hp : Fact p.Prime] [CharP K p] : PerfectRing K
   exact minpoly.degree_pos ha
 
 end PerfectField
+
+/-- If `L / K` is an algebraic extension, `K` is a perfect field, then `L / K` is separable. -/
+theorem Algebra.IsAlgebraic.isSeparable_of_perfectField {K L : Type*} [Field K] [Field L]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Perfect.lean:223]: Can you add this to the docstring at the beginning of the file?

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Perfect.lean:223]: Also, can this be an instance?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/FieldTheory/Perfect.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean]: > > Can you extract the lemma that says if L/K is integral with L a field and K a CommRing, then any irreducible polynomial in L[X] divides some monic irreducible polynomial in K[X]?
> 
> Need `IsDomain K` (used in `minpoly.irreducible`).

This result is incorrect, at least when `K` is not connected (i.e. can be written as a product of two rings), see https://math.stackexchange.com/a/4849403/235999. On the other hand, it's true if `K` is irreducible (i.e. only one minimal prime ideal), see https://math.stackexchange.com/a/4843432/235999.
